US08809313B2
To a stirred solution of (2R,3aS,7aS)-octahydro-1H-indole-2-carboxylic acid (250 g, 1.0 equiv) (12) in THF (3 L) and water (1.5 L) at 0° C., was added dropwise a cooled aq solution of 2.5 M NaOH (1 L). The reaction mixture was stirred for 15 min at the same temperature. Then di-tert-butyl dicarbonate (1.3 equiv) was added dropwise, maintaining the temperature at 0° C. The resulting reaction mixture was stirred at rt for 12 h. The reaction mixture was washed with MTBE (3 times). The aq phase was acidified with 1 M aq citric acid and extracted with ethyl acetate (3 times). The combined organic layers were dried over sodium sulphate and concentrated to dryness to give (2R,3aS,7aS)-1-(tert-butoxycarbonyl)octahydro-1H-indole-2-carboxylic acid (368 g) (13).

reactant | (2R,3aS,7aS)-octahydro-1H-indole-2-carboxylic acid | 250 g, 1.0 equiv | N1[C@H](C[C@@H]2CCCC[C@H]12)C(=O)O | C9H15NO2
reactant | NaOH | 2.5 M, 1 L | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.3 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 3 L | C1CCOC1 | C4H8O
solvent | water | 1.5 L | O | H2O
product | (2R,3aS,7aS)-1-(tert-butoxycarbonyl)octahydro-1H-indole-2-carboxylic acid | 368 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H]2CCCC[C@H]12)C(=O)O | C14H23NO4
